US06939885B2
Synthesis of (2-Amino-4,5-difluoro-phenyl)-pyridin-4-yl-methanone
BCl3 (6.2 ml, 1M in DCM) was added drop wise to 1,2-difluoro-4aminobenzene (0.5 g, 0.004 mol) in trichloroethylene (6.5 ml) at 0° C. and this mixture stirred for 15 min. 4-Cyanopyridine (0.48 g, 0.005 mol) was added and the solution was warmed to RT and stirred for 30 min. The solution was then heated at 80-90° C. for 1 h. The resulting solution was refluxed at 160° C. for 4 hr and stirred at RT over night. 3N HCl was added to the reaction mixture and refluxed at 110° C. for 1.5 h. The reaction mixture was cooled to RT and made basic (pH=12) with 6N NaOH. The reaction mixture was diluted with water and DCM. The resulting two layers were separated and the aqueous layer was extracted with DCM, dried over sodium sulphate and concentrated. The compound was purified by column chromatography using silica gel to yield title compound (0.25 g, 27%).

reactant | BCl3 | 1M, 6.2 ml | B(Cl)(Cl)Cl | BCl3
reactant | 1,2-difluoro-4aminobenzene | 0.004 mol, 0.5 g | FC1=C(C=C(C=C1)N)F | C6H5F2N
reactant | 4-Cyanopyridine | 0.005 mol, 0.48 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | HCl | 3N | Cl | ClH
reactant | NaOH | 6N | [OH-].[Na+]
solvent | trichloroethylene | 6.5 ml | ClC=C(Cl)Cl | C2HCl3
solvent | water | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (2-Amino-4,5-difluoro-phenyl)-pyridin-4-yl-methanone | 0.25 g, 27% | NC1=C(C=C(C(=C1)F)F)C(=O)C1=CC=NC=C1 | C12H8F2N2O
